US07026335B2
Preparation of 4-cyclohexyl-4-(2-methoxycarbonyl-ethyl)-piperidine-1-carboxylic acid tert-butyl ester (9):
To a solution of 4-cyclohexyl-4-(2-methoxycarbonyl-vinyl)-piperidine-1-carboxylic acid tert-butyl ester, 8, (2.64 g, 7.5 mmole) in methanol (30 ml) is added 10% palladium on carbon (120 mg) under argon. The mixture is purged with hydrogen and then stirred for two hours under a hydrogen atmosphere at atmospheric pressure. The reaction mixture is filtered through a short pad of Celite and the filtrate concentrated under reduced pressure. The crude product is purified over silica to afford 2.57 g (97% yield) of the desired compound.

reactant | 4-cyclohexyl-4-(2-methoxycarbonyl-vinyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C=CC(=O)OC)C1CCCCC1 | C20H33NO4
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium on carbon | 120 mg | [Pd] | Pd
product | 4-cyclohexyl-4-(2-methoxycarbonyl-ethyl)-piperidine-1-carboxylic acid tert-butyl ester | 2.57 g, 97% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)(CCC(=O)OC)C1CCCCC1 | C20H35NO4
